### PR TITLE
[Merged by Bors] - feat(RingTheory/AdicCompletion): refactor and expand API

### PR DESCRIPTION
**Pull request by chrisflav**
Refactors and expands the API for adic completions. More precisely:

- Renames `adicCompletion` to `AdicCompletion`.
- Redefines `adicCompletion` in terms of a `transitionMap`.
- Introduces `AdicCauchySequence` as the module of `I`-adic Cauchy sequences.
- Provides a surjective linear map `AdicCauchySequence I M →ₗ[R] AdicCompletion I M` and an induction principle for `AdicCompletion I M` for that.

---

- [x] depends on: #12511 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 1]
```diff
@@ -83,18 +83,27 @@ def Hausdorffification : Type _ :=
...
   zero_mem' hmn := by rw [Pi.zero_apply, Pi.zero_apply, LinearMap.map_zero]
   add_mem' hf hg m n hmn := by
     rw [Pi.add_apply, Pi.add_apply, LinearMap.map_add, hf hmn, hg hmn]
   smul_mem' c f hf m n hmn := by rw [Pi.smul_apply, Pi.smul_apply, LinearMap.map_smul, hf hmn]
-#align adic_completion adicCompletion
+
+/-- The completion of a module with respect to an ideal. This is not necessarily Hausdorff.
+In fact, this is only complete if the ideal is finitely generated. -/
+def AdicCompletion : Type _ :=
+  adicCompletion I M
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:105]: Maybe we can define this to be `{ f // ∀ {m n} (hmn : m ≤ n), AdicCompletion.transitionMap I M hmn (f n) = f m }` and ditch `adicCompletion` entirely? Similarly for `adicCauchySequence` (maybe replace it with a predicate `IsAdicCauchy`)

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 2]
```diff
@@ -201,67 +210,204 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  simp [transitionMap]
+
+@[simp]
+theorem transitionMap_eq (n : ℕ) : transitionMap I M (Nat.le_refl n) = LinearMap.id := by
+  ext
+  simp
+
+@[simp]
+theorem transitionMap_comp {m n k : ℕ} (hmn : m ≤ n) (hnk : n ≤ k) :
+    transitionMap I M hmn ∘ₗ transitionMap I M hnk = transitionMap I M (hmn.trans hnk) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:293]: Can you add `(transitionMap I M hmn (transitionMap I M hnk x)) = transitionMap I M (hmn.trans hnk) x` as a simp lemma?

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 3]
```diff
@@ -201,67 +210,204 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  ext
+  simp
+
+@[simp]
+theorem transitionMap_comp_eval {m n : ℕ} (hmn : m ≤ n) :
+    transitionMap I M hmn ∘ₗ eval I M n = eval I M m := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:299]: Same here.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 4]
```diff
@@ -201,67 +210,204 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+/-- Lift a compatible family of linear maps `M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N)` to
+the `I`-adic completion of `M`. -/
+def lift (f : ∀ (n : ℕ), M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N))
+    (h : ∀ {m n : ℕ} (hle : m ≤ n), transitionMap I N hle ∘ₗ f n = f m) :
+    M →ₗ[R] AdicCompletion I N where
+  toFun := fun x ↦ ⟨fun n ↦ f n x, by
+      intro k l hkl
+      change ((transitionMap I N hkl) ∘ₗ (f l)) x = _
+      rw [h hkl]
+    ⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:390]:
```suggestion
      rw [h hkl]⟩
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:105]: How do I then get the `AddCommGroup` and `Module` instances? Do I have to write them by hand? Currently they are inherited by `adicCompletion` being a `Submodule`.

Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:105]: And I have realized that `adicCompletion` should not be private after all, since it comes in handy again for defining the algebra instance. Maybe rename `adicCompletion` in `submodule` and define `AdicCompletion` as you suggest. Then I think `inferInstanceAs <| AddCommGroup (submodule I M)` should still work.

Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:105]: I suppose the proof that pointwise add and smul works is exactly the same proof as showing `adicCompletion` is a submodule. But if you will need it elsewhere then I think your suggestion is the way to go.

Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean]: I think I changed it according to your suggestions.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 5]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
       Quotient.inductionOn' (eval I M n x) fun x => SModEq.zero.2 <| smul_mem_smul hr mem_top)
     fun _ _ ih1 ih2 => by rw [LinearMap.map_add, ih1, ih2, LinearMap.map_zero, add_zero]⟩
 
-end adicCompletion
+@[simp]
+theorem transitionMap_mk {m n : ℕ} (hmn : m ≤ n) (x : M) :
+    transitionMap I M hmn
+      (Submodule.Quotient.mk (p := (I ^ n • ⊤ : Submodule R M)) x) =
+      Submodule.Quotient.mk (p := (I ^ m • ⊤ : Submodule R M)) x := by
+  simp [transitionMap]
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:286]:
```suggestion
      Submodule.Quotient.mk (p := (I ^ m • ⊤ : Submodule R M)) x :=
   rfl
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 6]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+@[simp]
+theorem transitionMap_comp_apply {m n k : ℕ} (hmn : m ≤ n) (hnk : n ≤ k)
+    (x : M ⧸ (I ^ k • ⊤ : Submodule R M)) :
+    transitionMap I M hmn (transitionMap I M hnk x) = transitionMap I M (hmn.trans hnk) x := by
+  change (transitionMap I M hmn ∘ₗ transitionMap I M hnk) x = transitionMap I M (hmn.trans hnk) x
+  simp
+
+@[simp]
+theorem transitionMap_comp_eval_apply {m n : ℕ} (hmn : m ≤ n) (x : AdicCompletion I M) :
+    transitionMap I M hmn (x.val n) = x.val m :=
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:308]: Which is the simp normal form? `eval I M n f` or `f.1 n`? You should choose one and design the simp lemmas around it. If it is the former, than this lemma should be stated with it. If it is the latter, `AdicCompletion.eval_apply` should be a simp lemma and `val_add`, `val_sub`, `val_smul`, `val_zero` simp lemmas should be added.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 7]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  · intro h m n hmn
+    induction n, hmn using Nat.le_induction with
+    | base => rfl
+    | succ n hmn ih =>
+        trans
+        · exact ih
+        · refine SModEq.mono (smul_mono (Ideal.pow_le_pow_right hmn) (by rfl)) (h n)
+
+/-- Construct `I`-adic cauchy sequence from sequence satisfying the successive cauchy condition. -/
+def AdicCauchySequence.mk (f : ℕ → M)
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:359]:
```suggestion
@[simps] def AdicCauchySequence.mk (f : ℕ → M)
```
Maybe?

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 8]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+    rfl
+  smul_mem' := by
+    intro r f hf m n hmn
+    exact SModEq.smul (hf hmn) r
+
+instance : AddCommGroup (AdicCauchySequence I M) :=
+  inferInstanceAs <| AddCommGroup (AdicCauchySequence.submodule I M)
+
+instance : Module R (AdicCauchySequence I M) :=
+  inferInstanceAs <| Module R (AdicCauchySequence.submodule I M)
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:342]: Can you add simp lemmas such as `(f + g).1 x = f.1 x + f.2 x`?

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 9]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  add_mem' := by
+    intro f g hf hg m n hmn
+    exact SModEq.add (hf hmn) (hg hmn)
+  zero_mem' := by
+    intro _ _ _
+    rfl
+  smul_mem' := by
+    intro r f hf m n hmn
+    exact SModEq.smul (hf hmn) r
+
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:337]: Maybe `CoeFun (AdicCauchySequence I M) (ℕ → M)`?

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 10]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+
+/-- Every element in the adic completion is represented by a Cauchy sequence. -/
+theorem mk_surjective : Function.Surjective (mk I M) := by
+  intro x
+  have h (n : ℕ) :
+      ∃ (a : M), Submodule.Quotient.mk (p := (I ^ n • ⊤ : Submodule R M)) a = x.val n :=
+    Quotient.exists_rep (x.val n)
+  choose a ha using h
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:383]:
```suggestion
  choose a ha using fun n ↦ Submodule.Quotient.mk_surjective _ (x.val n)
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 11]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+    exact h
+
+/-- The canonical linear map from cauchy sequences to the completion. -/
+@[simps]
+def mk : AdicCauchySequence I M →ₗ[R] AdicCompletion I M where
+  toFun f := ⟨fun n ↦ Submodule.mkQ (I ^ n • ⊤ : Submodule R M) (f.val n), by
+    intro m n hmn
+    simp only [mkQ_apply, transitionMap_mk]
+    exact (f.property hmn).symm
+    ⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:373]:
```suggestion
    exact (f.property hmn).symm⟩
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 12]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+
+/-- Lift a compatible family of linear maps `M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N)` to
+the `I`-adic completion of `M`. -/
+def lift (f : ∀ (n : ℕ), M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N))
+    (h : ∀ {m n : ℕ} (hle : m ≤ n), transitionMap I N hle ∘ₗ f n = f m) :
+    M →ₗ[R] AdicCompletion I N where
+  toFun := fun x ↦ ⟨fun n ↦ f n x, by
+    intro k l hkl
+    change ((transitionMap I N hkl) ∘ₗ (f l)) x = _
+    rw [h hkl]⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:407]:
```suggestion
  toFun := fun x ↦ ⟨fun n ↦ f n x, fun hkl ↦ LinearMap.congr_fun (h hkl) x⟩⟩
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 13]
```diff
@@ -201,67 +203,228 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+        · exact ih
+        · refine SModEq.mono (smul_mono (Ideal.pow_le_pow_right hmn) (by rfl)) (h n)
+
+/-- Construct `I`-adic cauchy sequence from sequence satisfying the successive cauchy condition. -/
+def AdicCauchySequence.mk (f : ℕ → M)
+    (h : ∀ n, f n ≡ f (n + 1) [SMOD (I ^ n • ⊤ : Submodule R M)]) : AdicCauchySequence I M where
+  val := f
+  property := by
+    rw [isAdicCauchy_iff]
+    exact h
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:364]:
```suggestion
    rwa [isAdicCauchy_iff]
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:308]: The simp NF is `f.1 n` because of `AdicCompletion.coe_eval` being a simp lemma. That's why `AdicCompletion.eval_apply` can't be a simp lemma currently, because it is already proven by `simp`. Are you saying that `eval_apply` should be the simp lemma instead of `coe_eval`?

For the time being, I added the simp lemmas you suggested. Anyway, I am not entirely sure whether the simp NF should not be `eval I M n f` instead, because it unveils less of the internal implementation of `AdicCompletion`. It might also be easier to control in the `Algebra` case, since then there are two "canonical" projections. The one to `R ⧸ (I ^ n • ⊤)` (`eval I R n`) and the one to `R ⧸ I ^ n` (`evalₐ I n` which is defined in the Algebra PR).

**Comment by chrisflav** [comment]
Thanks a lot for all the suggestions @erdOne. I think I addressed them as you suggested.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 14]
```diff
@@ -201,67 +203,259 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
     ((eval I M n).map_smul r x).symm ▸
       Quotient.inductionOn' (eval I M n x) fun x => SModEq.zero.2 <| smul_mem_smul hr mem_top)
     fun _ _ ih1 ih2 => by rw [LinearMap.map_add, ih1, ih2, LinearMap.map_zero, add_zero]⟩
 
-end adicCompletion
+@[simp]
+theorem transitionMap_mk {m n : ℕ} (hmn : m ≤ n) (x : M) :
+    transitionMap I M hmn
+      (Submodule.Quotient.mk (p := (I ^ n • ⊤ : Submodule R M)) x) =
+      Submodule.Quotient.mk (p := (I ^ m • ⊤ : Submodule R M)) x := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:301]:
```suggestion
    transitionMap I M hmn (Submodule.Quotient.mk x) =
      Submodule.Quotient.mk x := by
```
I think this works and looks cleaner, but the current statement is also fine if you prefer explicitness.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 15]
```diff
@@ -201,67 +203,259 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  rfl
+
+@[simp]
+theorem val_smul (n : ℕ) (r : R) (f : AdicCauchySequence I M) : (r • f) n = r • f n :=
+  rfl
+
+@[simp]
+theorem val_zero (n : ℕ) : (0 : AdicCauchySequence I M) n = 0 :=
+  rfl
+
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:380]: Maybe a simp lemma `f.1 x = f x` if the latter is simp NF.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 16]
```diff
@@ -201,67 +203,259 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  toFun := fun x ↦ ⟨fun n ↦ f n x, fun hkl ↦ LinearMap.congr_fun (h hkl) x⟩
+  map_add' x y := by
+    simp only [map_add]
+    rfl
+  map_smul' r x := by
+    simp only [LinearMapClass.map_smul, RingHom.id_apply]
+    rfl
+
+@[simp]
+lemma lift_eval (f : ∀ (n : ℕ), M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N))
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:447]:
```suggestion
lemma eval_lift (f : ∀ (n : ℕ), M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N))
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 17]
```diff
@@ -201,67 +203,259 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+    (h : ∀ {m n : ℕ} (hle : m ≤ n), transitionMap I N hle ∘ₗ f n = f m)
+    (n : ℕ) : eval I N n ∘ₗ lift I f h = f n :=
+  rfl
+
+@[simp]
+lemma lift_eval_apply (f : ∀ (n : ℕ), M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N))
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:453]:
```suggestion
lemma lift_apply (f : ∀ (n : ℕ), M →ₗ[R] N ⧸ (I ^ n • ⊤ : Submodule R N))
```
(or `lift_apply_apply` or `eval_lift_apply`)

**Review by erdOne — APPROVED** [review]
Thanks for the quick response!
Some more nitpicks:

File: Mathlib/RingTheory/AdicCompletion/Basic.lean (hunk 15 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:380]: This is proven by `simp`, should I add it anyway?

File: Mathlib/RingTheory/AdicCompletion/Basic.lean (hunk 14 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:301]: Removing the explicit annotations makes this significantly slower (measured by eye). IMHO it might be a good idea to make `p` an explicit argument of `Submodule.Quotient.mk`, as the unification (at least that's what I think it is) seems to be quite slow there. Note that the ideal argument of `Ideal.Quotient.mk` is also explicit.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean (hunk 15 above)
Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:380]: Oh maybe coefun is reducible or something similar.
I think the lemma might still be useful though?

**Comment by chrisflav** [comment]
Besides applying your suggestions, I added an `ext` lemma for `AdicCauchySequence` and renamed the `val_add` (etc.) lemmas for `AdicCauchySequence` to `add_apply` (etc.) (in accordance with `Pi.add_apply`).

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 18]
```diff
@@ -201,67 +203,279 @@ instance (priority := 100) of_subsingleton [Subsingleton M] : IsPrecomplete I M
...
+  choose a ha using fun n ↦ Submodule.Quotient.mk_surjective _ (x.val n)
+  refine ⟨⟨a, ?_⟩, ?_⟩
+  · intro m n hmn
+    rw [SModEq.def, ha m, ← transitionMap_mk I M hmn, ha n, x.property hmn]
+  · ext n
+    simp [ha n]
+
+/-- To show a statement about an element of `adicCompletion I M`, it suffices to check it
+on Cauchy sequences. -/
+theorem inductionOn {p : AdicCompletion I M → Prop} (x : AdicCompletion I M)
```
Comment (erdOne) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:446]:
```suggestion
theorem induction_on {p : AdicCompletion I M → Prop} (x : AdicCompletion I M)
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean (hunk 15 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:390]: CI says "LHS equals RHS syntactically", so I removed it again.

Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:390]: Ah coefun is smarter than I think. Sorry for the confusion.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
